US07585868B2
Synthesis of 1-allyl-3-(naphthalen-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (ZK159).
3-(naphthalen-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (50 mg, 0.21 mmol) was dissolved in DMF (1.5 mL) and K2CO3 (110 mg, 0.8 mmol) and allyl iodide (23 μL, 0.25 mmol) were added. The reaction was heated to 60° C. overnight, then cooled to RT and poured into water (30 mL). The precipitate was collected by filtration. ESI-MS (M+H)+ m/z calcd 302.1, found 302.2.

reactant | 3-(naphthalen-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.21 mmol, 50 mg | C1=C(C=CC2=CC=CC=C12)C1=NNC2=NC=NC(=C21)N | C15H11N5
reactant | K2CO3 | 0.8 mmol, 110 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | allyl iodide | 0.25 mmol, 23 μL | C(C=C)I | C3H5I
reactant | water | 30 mL | O | H2O
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 1-allyl-3-(naphthalen-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | C(C=C)N1N=C(C=2C1=NC=NC2N)C2=CC1=CC=CC=C1C=C2 | C18H15N5
